US04319913
The procedure of Example 1 was employed utilizing N-benzylaniline and methyl phosphonic dichloride. The crude product produced as a result of the chromatographic separation yielded without additional purification 1-methyl-2-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide (0.4 g, 1.75% yield) as a brown glass.

reactant | N-benzylaniline | C(C1=CC=CC=C1)NC1=CC=CC=C1 | C13H13N
reactant | methyl phosphonic dichloride | CP(=O)(Cl)Cl | CH3Cl2OP
product | 1-methyl-2-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide | 0.4 g, 1.75% yield | CP1(N(CC2=C1C=CC=C2)C2=CC=CC=C2)=O | C14H14NOP
